US07351825B2
(2R*,3R*)-3-methylsulfanyl-2-phenyl-butan-2-ol (step 1-1)
To a solution of trans-2,3-dimethyl-2-phenyloxirane (14 g, 76 mmol) in methanol (100 mL) was added 15% aqueous sodium methyl mercaptan solution (61 mL, 190 mmol) under nitrogen atmosphere at room temperature, and the mixture was warmed to 60° C. and stirred for 2 hours. The mixture was concentrated under reduced pressure, and the residue was extracted twice with diethyl ether (50 mL), sequentially washed with water (50 ml) and saturated aqueous sodium chloride solution (50 mL), and dried over sodium sulfate. The resultant mixture was filtrated and the solvent was evaporated to give the title compound (16 g, yield 99%) as a colorless oil.

reactant | trans-2,3-dimethyl-2-phenyloxirane | 76 mmol, 14 g | C[C@@H]1[C@@](O1)(C)C2=CC=CC=C2 | C10H12O
reactant | sodium methyl mercaptan | 190 mmol, 61 mL | CS.[Na]
solvent | methanol | 100 mL | CO | CH4O
product | (2R*,3R*)-3-methylsulfanyl-2-phenyl-butan-2-ol | 16 g, yield 99% | CS[C@@H]([C@](C)(O)C1=CC=CC=C1)C | C11H16OS
